* sg13g2-lna -- pnpMPA diode-connected terminal drop over PVT
* (issue #33 / DR-0003 Option-B adequacy evidence).
* Generated from sim/biasref-topology/testbench/tb_mpa_diode.spice.tmpl by
* sim/biasref-topology/run_biasref_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run.
*
* Generated for: HBT_SECTION=hbt_wcs TEMP=125 C
* FEED_I=20u A
*
* WHAT THIS MEASURES: the terminal drop of a diode-connected pnpMPA
* (the PDK's substrate PNP, characterized diode-only per
* sg13g2_hbt_mod.lib's own header -- DUT: diode_pp=pnpMPA), in the
* diode orientation a CMOS-style bandgap island would use it:
* emitter at the fed node, base and collector tied to vss (the
* substrate). Curator pass of #33 inserted this device as Option B
* with its adequacy explicitly "not traced" -- this bench is that
* trace, at the island-scale current the committed mirror actually
* runs (0.52 mA-ish) plus two decades down where its drop is
* smallest (20 uA: Q3's Nx=1 density-match current divided by 8).
* The cornerHBT.lib sections hbt_typ/hbt_bcs/hbt_wcs corner BOTH the
* npn13G2 (vbic_* scalars) and the pnpMPA (sgp_mpa_* scalars), so
* the same 3-section HBT convention the committed 45-cell grid uses
* applies unchanged to this device (verified against the pinned
* v0.3.0 install -- see sim/biasref-topology/README.md).
*
* NO RF claim lives here; no LNA device is instantiated. This is a
* device-level design-space probe, the same class of evidence as
* sim/hbt-characterization/, and no number here claims conformance to
* any spec/target-spec.md row.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_wcs
.options temp=125 tnom=27

Vam feed bref dc 0
Ifeed 0 feed dc 20u
Xd 0 0 bref pnpMPA

.control
op
let veb = v(bref)
let id  = -i(vam)
echo "MPADIODE veb $&veb id $&id"
echo "BENCH_COMPLETE"
quit
.endc
.end
